US06521716B1
To isophoronediamine (139.23 g, 0.819 mol) in methanol (700 ml) was slowly added with stirring isobutyl acetoacetate (262.31 g, 1.660 mol) in methanol (700 ml) over 45 minutes, during which the temperature increased from 22° C. to 30° C. The reaction mixture was allowed to stand at 21° C. overnight (15 h). Further methanol was added, and removal of solvent and drying (91° C./100 Pa) gave 1-(1-isobutoxycarbonyl-2-prop-1-enylamino)-3-(1-isobutoxycarbonyl-2-prop-1-enylaminomethyl)-3,5,5-trimethylcyclohexane (IIMTCH) as a clear light yellow viscous syrup (366.80 g, 100%), which set to a soft gum on standing and was identified by 1H-NMR, 13C-NMR, FT-IR and Raman spectra.

reactant | isophoronediamine | 0.819 mol, 139.23 g | CC1(CC(CC(C1)(C)CN)N)C | C10H22N2
reactant | isobutyl acetoacetate | 1.660 mol, 262.31 g | C(CC(=O)C)(=O)OCC(C)C | C8H14O3
solvent | methanol | 700 ml | CO | CH4O
solvent | methanol | 700 ml | CO | CH4O
product | 1-(1-isobutoxycarbonyl-2-prop-1-enylamino)-3-(1-isobutoxycarbonyl-2-prop-1-enylaminomethyl)-3,5,5-trimethylcyclohexane | 366.80 g, 100% | C(C(C)C)OC(=O)C=C(C)NC1CC(CC(C1)(C)C)(C)C(C(=O)OCC(C)C)NC(=C)C | C26H46N2O4
